US09388189B2
(S)-2-(1-((5-(1-(3-Hydroxyphenyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1-(3-Methoxyphenyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (9 mg, 0.01 mmol) was treated with boron tribromide (1M in dichloromethane, 1 mL, 1.00 mmol) in dichloromethane (1.0 mL) and then with a solution of ammonia (7N in methanol, 5.0 ml, 35.0 mmol) according to the method described in Example 41. The residue was purified using SP1® Purification System (reverse phase, 0% to 100% water-methanol/acetonitrile 1:1) to obtain 4 mg (47% yield) of the title compound.

reactant | (S)-2-(1-((5-(1-(3-Methoxyphenyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.01 mmol, 9 mg | COC=1C=C(C=CC1)N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C37H41N9O3Si
reactant | boron tribromide | 1.00 mmol, 1M, 1 mL | B(Br)(Br)Br | BBr3
reactant | ammonia | 35.0 mmol, 7N, 5.0 ml | N | H3N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | (S)-2-(1-((5-(1-(3-Hydroxyphenyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 4 mg, 47% yield | OC=1C=C(C=CC1)N1N=C(C=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C30H25N9O2
